US08115005B2
1-(4-Hydroxy-phenyl)-5-methyl-1H-pyrazole-4-carbaldehyde:
To a solution of 4-[1,3]dioxolan-2-yl-1-(4-methoxy-phenyl)-5-methyl-1H-pyrazole (0.2 g, 0.8 mmol) in CH2Cl2 (4 mL) was added boron tribromide (1M in DCM, 2.3 mL, 2.3 mmol) at −78° C. over 5 min. The reaction mixture was stirred at −78° C. for 1 h, and then at room temperature for 4 h. The reaction was quenched with sat. NaHCO3 at 0° C., extracted with CH2Cl2, washed brine, and dried over Na2SO4. After concentrated in vacuo, the title compound was obtained with a yield of 97% (150 mg), which was used to the next step without further purifications; MS (APCI) m/z: 203 (M+1, 100).

reactant | 4-[1,3]dioxolan-2-yl-1-(4-methoxy-phenyl)-5-methyl-1H-pyrazole | 0.8 mmol, 0.2 g | O1C(OCC1)C=1C=NN(C1C)C1=CC=C(C=C1)OC | C14H16N2O3
reactant | boron tribromide | 2.3 mmol, 1M, 2.3 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Hydroxy-phenyl)-5-methyl-1H-pyrazole-4-carbaldehyde | yield of 97% | OC1=CC=C(C=C1)N1N=CC(=C1C)C=O | C11H10N2O2
